US04255182
Preparation of N-[1-(1,3-dioxolan-2-yl)ethyl]methylamine
2-(1-Bromoethyl)-1,3-dioxolane (60 grams) and 40% aqueous methylamine (160 ml) were charged into a pressure vessel and heated, with agitation, for a period of about 16 hours at a temperature of about 100° C. under autogeneous pressure. At the end of this period, the reaction mixture was cooled to room temperature and 16 grams of NaOH added. The resulting mixture was then extracted with methylene chloride. The extract was dried, then stripped of methylene chloride by use of a rotary evaporator. The residue was distilled to yield the desired product N-[1-(1,3-dioxolan-2-yl)ethyl]methylamine as a fraction boiling at 60° C.-65° C. at about 12 mm Hg pressure.

reactant | 2-(1-Bromoethyl)-1,3-dioxolane | 60 grams | BrC(C)C1OCCO1 | C5H9BrO2
reactant | NaOH | 16 grams | [OH-].[Na+]
reactant | methylamine | 160 ml | CN | CH5N
product | N-[1-(1,3-dioxolan-2-yl)ethyl]methylamine | O1C(OCC1)C(C)NC | C6H13NO2
